US09359356B2
U.S. Pat. No. 8,314,119, issued 20 Nov. 2012, shows synthesis of (4s)-1-azaadamantan-4-ol HCl salt from a 7-step process of: (1) Reducing 1,4-dioxaspiro[4.5]decan-8-one with TOSMIC to form 1,4-dioxaspiro[4.5]decane-8-carbonitrile; (2) Reducing resulting product with LAH to form 1,4-dioxaspiro[4.5]decan-8-ylmethanamine; (3) Cyclizing resulting product with a double-Mannich type condensation using paraformaldehyde and sulfuric acid to form azaadamantan-4-one; (4) Reducing the ketone group of azaadamantan-4-one to an alcohol using NaBH4 in presence of borane-THF complex to form a diastereomer mixture of 1-azaadamantan-4-ol N-borane complex; (5) Coupling resulting product with 4-chlorobenzoic acid; (6) Separating (4s) isomer by column chromatography (silica gel, using 3:1 hexanes-EtOAc), followed by removing 4-chlorobenzoic acid moiety with NaOH; and (7) Removing BH3 group with HCl giving (4s)-1-azaadamantan-4-ol HCl salt. Alternatively, the (4s)-isomer from Step (6) can be coupled with 2-chloro-5-phenyl-1,3,4-thiadiazole, giving (4s)-4-(5-Phenyl-1,3,4-thiadiazol-2-yloxy)-1-azatricyclo[3.3.1.13,7]-decane N-borane complex. Removal of borane group affords the free base, which was crystalized as a dihydrogen citrate salt. Resulting ether-linked azaadamantane derivative is useful for treating diminished CNS function associated with traumatic brain injury or treating conditions such as arthritis or osteoarthritic pain.

reactant | (4s)-1-azaadamantan-4-ol HCl salt | Cl.N12CC3[C@@H](C(CC(C1)C3)C2)O
reactant | 1,4-dioxaspiro[4.5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | TOSMIC | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
product | 1,4-dioxaspiro[4.5]decane-8-carbonitrile | O1CCOC12CCC(CC2)C#N | C9H13NO2
